US09290490B2
A solution of 4-(methoxycarbonyl)-4-methylcyclohexanecarboxylic acid (6.67 g, 33.3 mmol) in dichloromethane (30 mL) was charged with thionyl chloride (40 mL, 80 mmol) and then heated to 38° C. for 17 hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure to yield methyl 4-(chlorocarbonyl)-1-methylcyclohexanecarboxylate, which was used without further purification.

reactant | 4-(methoxycarbonyl)-4-methylcyclohexanecarboxylic acid | 33.3 mmol, 6.67 g | COC(=O)C1(CCC(CC1)C(=O)O)C | C10H16O4
reactant | thionyl chloride | 80 mmol, 40 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | methyl 4-(chlorocarbonyl)-1-methylcyclohexanecarboxylate | ClC(=O)C1CCC(CC1)(C(=O)OC)C | C10H15ClO3
